US04209626
1,2-Dihydro-2-oxo-5-phenyl-3-pyridinecarboxylic acid
A mixture of 25.49 g. of 3-amino-2-phenyl-2-propenal and 27.32 g. of dimethyl malonate is reacted with 18.36 g. of sodium methoxide in one liter of methanol. The solution is stirred for 2 hours at room temperature and then is heated at reflux temperature for 3 hours. The resulting mixture is cooled and filtered to collect the precipitate. The solid is suspended in water and acidified with 10% aqueous hydrochloric acid to give a white solid. The solid is collected and washed with water followed by ethanol to yield 18.0 g. of methyl 1,2-dihydro-2-oxo-5-phenyl-3-pyridinecarboxylate. The ester is hydrolyzed by heating at reflux temperature for 2.5 hours in the presence of concentrated hydrochloric acid to give the product of the Example, m.p. 296° C. dec.

reactant | 3-amino-2-phenyl-2-propenal | NC=C(C=O)C1=CC=CC=C1 | C9H9NO
reactant | dimethyl malonate | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | sodium methoxide | C[O-].[Na+]
reactant | methyl 1,2-dihydro-2-oxo-5-phenyl-3-pyridinecarboxylate | O=C1NC=C(C=C1C(=O)OC)C1=CC=CC=C1 | C13H11NO3
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | one liter | CO | CH4O
product | 1,2-Dihydro-2-oxo-5-phenyl-3-pyridinecarboxylic acid | O=C1NC=C(C=C1C(=O)O)C1=CC=CC=C1 | C12H9NO3
